US07939524B2
c) 2,5-Diaminobenzenesulfonamide
2-Amino-5-nitro-benzenesulfonamide (5.00 kg, 23.0 mol), methanol (65 L), tetrahydrofuran (65 L), and 10% palladium on carbon (250 g) were charged to an autoclave. The mixture was cycled with nitrogen and hydrogen purges (3×), and the mixture was then stirred under hydrogen (50 psi) at 23° C. overnight. The catalyst was removed by filtration and the filtrate was then concentrated in vacuo to give a brown solid. The solid was further dried in vacuo at 45° C. to afford the desired product, 2,5-diamino-benzenesulfonamide (4.21 kg, 22.4 mol, 98%), as a solid. 1H NMR (400 MHz, DMSO-d6) δ: 4.54 (2H, bs), 4.98 (2H, bs), 6.55-6.60 (2H, m), 6.87 (1H, d, J=2.2 Hz), 6.99 (2H, bs). LC-MS (ESI) calcd for C6H9N3O2S 187.04, found 188.3 [M+H+].

reactant | 2-Amino-5-nitro-benzenesulfonamide | 23.0 mol, 5.00 kg | NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C6H7N3O4S
reactant | methanol | 65 L | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 250 g | [Pd] | Pd
solvent | tetrahydrofuran | 65 L | O1CCCC1 | C4H8O
product | 2,5-diamino-benzenesulfonamide | 22.4 mol, 4.21 kg, 98% | NC1=C(C=C(C=C1)N)S(=O)(=O)N | C6H9N3O2S
